US09226923B2
To a solution of (4-(benzyloxy)-1-cyanocyclohexyl)methyl 4-methylbenzenesulfonate (450 mg, 1.126 mmol, 1.0 equiv) in THF (dry, 10 mL) was added LiAlH4 (51 mg, 1.352 mmol, 1.2 equiv) in portions at 0° C. under nitrogen. After addition, the reaction mixture was allowed to warm to room temperature slowly. The reaction mixture was stirred at room temperature for 4 hrs and was then cooled to about 0° C. with an external ice-H2O bath. H2O (0.05 mL), a solution of NaOH (0.05 mL, 15 wt %) and H2O (0.1 mL) were added sequentially (be careful!). After addition, the mixture was stirred at room temperature for 10 min, then passed through a pad of celite, eluted with THF (40 mL). The combined organic phase was dried over anhydrous Na2SO4, concentrated to give pale yellow liquid which was dissolved in DCM (10 mL), Boc anhydride (295 mg, 1.352 mmol, 1.2 equiv) was added in one portion. The solution was stirred at room temperature for 16 h. The mixture was concentrated to remove DCM. A solution of Na2CO3 (10 mL, 2.0 M) and a saturated solution of NaHCO3 (10 mL) was added. The mixture was stirred at room temperature for 10 min, then extracted with EtOAc (3×30 mL). The combined organic solution was washed with brine (20 mL), dried over anhydrous Na2SO4, concentrated to give pale yellow oil which was purified by CombiFlash (24 g silica gel column, EtOAc/Hexane: 0-25%) to afford 290 mg (yield 77%) of tert-butyl 7-(benzyloxy)-2-azaspiro[3.5]nonane-2-carboxylate as a colorless oil.

reactant | (4-(benzyloxy)-1-cyanocyclohexyl)methyl 4-methylbenzenesulfonate | 1.126 mmol, 450 mg, 1.0 equiv | CC1=CC=C(C=C1)S(=O)(=O)OCC1(CCC(CC1)OCC1=CC=CC=C1)C#N | C22H25NO4S
reactant | LiAlH4 | 1.352 mmol, 51 mg, 1.2 equiv | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 0.05 mL | [OH-].[Na+]
reactant | Boc anhydride | 1.352 mmol, 295 mg, 1.2 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 0.1 mL | O | H2O
solvent | H2O | 0.05 mL | O | H2O
product | tert-butyl 7-(benzyloxy)-2-azaspiro[3.5]nonane-2-carboxylate | 290 mg, yield 77% | C(C1=CC=CC=C1)OC1CCC2(CN(C2)C(=O)OC(C)(C)C)CC1 | C20H29NO3
